US05292452
A solution of 18.1 g of 4-chloro-1-[trans-4-{2-(4-methoxymethylidene)cyclohexyl)ethyl]cyclohexyl]benzene in 90 ml of tetrahydrofuran is treated with 22.5 ml of 2N hydrochloric acid and boiled at reflux for 30 minutes while stirring and gassing with nitrogen. Subsequently, the reaction mixture is cooled to room temperature, poured into 400 ml of water and extracted with methylene chloride. The organic phases are washed with water, dried over sodium sulphate, filtered and concentrated. The residue is dissolved in 150 ml of tert.-butyl methyl ether. The solution is evaporated to a large extent and then treated with 200 ml of methanol. Crystallization at -25° C. and recrystallization of the colourless, crystalline precipitate gives pure trans-4-[2-(trans-4-(4-chlorophenyl)cyclohexyl)ethyl]cyclohexanecarboxaldehyde.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 2N, 22.5 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | trans-4-[2-(trans-4-(4-chlorophenyl)cyclohexyl)ethyl]cyclohexanecarboxaldehyde | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C=O | C21H29ClO
